US07157491B2
7-Bromo-4-(4-methoxyphenyl)-1-benzothiophene
To a 25 ml round bottom flask was added 4-(4-methoxyphenyl)-1-benzothiophene (500 mg, 2.08 mmol), CH2Cl2 (10 ml), and the solution was cooled to −20° C. (acetone-water, CO2). Bromine (8.33 ml of 0.25 M stock in CH2Cl2, 2.08 mmol) was slowly added dropwise over 0.5 h and the reaction was stirred for a additional 0.5 h. The reaction was then washed with water, dried over anhydrous Na2SO4, passed through a silica plug and concentrated to 460 mg orange oil. Recrystallization from 3:97 EtOAc-hexanes afforded 350 mg (53%) of product as white crystals: 1H NMR (300 MHz, DMSO-d6): δ 3.83 (3H, s), 7.10 (2H, d, J=8.0 Hz), 7.31 (1H, d, J=7.9 Hz), 7.51 (2H, d, J=8.4 Hz), 7.56 (1H, d, J=5.6 Hz), 7.68 (1H, d, J=7.9 Hz), 7.92 (1H, d, J=5.6 Hz).

reactant | 4-(4-methoxyphenyl)-1-benzothiophene | 2.08 mmol, 500 mg | COC1=CC=C(C=C1)C1=CC=CC2=C1C=CS2 | C15H12OS
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
reactant | CO2 | C(=O)=O | CO2
reactant | Bromine | 2.08 mmol, 0.25 M, 8.33 ml | BrBr | Br2
solvent | acetone water | CC(=O)C.O
product | 7-Bromo-4-(4-methoxyphenyl)-1-benzothiophene | 350 mg, 53% | BrC1=CC=C(C=2C=CSC21)C2=CC=C(C=C2)OC | C15H11BrOS
